US05206257
Nitrosyl sulphuric acid, prepared from sodium nitrite (69 g, 1 mol) and concentrated sulphuric acid (600 ml) was added dropwise with stirring to a cooled solution of 2,6-dichloro-4-trifluoromethylaniline (230 g, 1 mol) in glacial acetic acid (1250 ml) at 15°-20° C. The mixture was stirred for 1 hour at ambient temperature. The diazonium mixture was run slowly into a solution prepared from cuprous bromide (143.4 g, 1 mol), hydrobromic acid (48%, 1 l) and ice (approx. 1000 g) at a rate so as not to exceed a temperature of 35° C. After 1 hour the mixture was steam distilled to give 1 l of distillate which was diluted with water (3 l) and extracted with diethyl ether (2×500 ml). The organic fractions were combined and washed with aqueous sodium hydroxide solution (2M, 2×250 ml) and water (250 ml), dried over anhydrous sodium sulphate and evaporated to dryness. The oily residue was distilled to give 1-bromo-2,6-dichloro-4-trifluoromethylbenzene (256.8 g) as a colourless liquid, b.p. 74°-78° C. at 6 mmHg.

reactant | Nitrosyl sulphuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | sodium nitrite | 1 mol, 69 g | N(=O)[O-].[Na+]
reactant | sulphuric acid | 600 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,6-dichloro-4-trifluoromethylaniline | 1 mol, 230 g | ClC1=C(N)C(=CC(=C1)C(F)(F)F)Cl | C7H4Cl2F3N
reactant | hydrobromic acid | 1 l | Br | BrH
solvent | acetic acid | 1250 ml | C(C)(=O)O | C2H4O2
solvent | water | 3 l | O | H2O
product | 1-bromo-2,6-dichloro-4-trifluoromethylbenzene | 256.8 g | BrC1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C7H2BrCl2F3
